US07361671B2
A solution of (5-methoxymethyl-2-methyl-thiophen-3-yl)-acetic acid methyl ester (2.2 g, 10.1 mmol) in dichloromethane (60 mL) is cooled to −65° C. and treated with boron trichloride (10.1 mL, 1.0 M, 10.1 mmol) dropwise via syringe. The mixture is allowed to warm to 0° C., poured into ice-water and extracted with dichloromethane (3×). The combined organic extracts are washed with saturated aq NaCl, dried over Na2SO4, filtered and concentrated in vacuo to give (5-chloromethyl-2-methyl-thiophen-3-yl)-acetic acid methyl ester (2.2 g, 99%) as an orange oil. 1H NMR (CDCl 3, 300 MHz) δ 6.90 (s, 1 H), 4.72 (s, 2 H), 3.70 (s, 3 H), 3.50 (s, 2 H), 2.38 (s, 3 H).

reactant | (5-methoxymethyl-2-methyl-thiophen-3-yl)-acetic acid methyl ester | 10.1 mmol, 2.2 g | COC(CC1=C(SC(=C1)COC)C)=O | C10H14O3S
reactant | boron trichloride | 10.1 mmol, 1.0 M, 10.1 mL | B(Cl)(Cl)Cl | BCl3
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | (5-chloromethyl-2-methyl-thiophen-3-yl)-acetic acid methyl ester | 2.2 g, 99% | COC(CC1=C(SC(=C1)CCl)C)=O | C9H11ClO2S
